US05256679
To a cooled, stirred mixture of S,N-dimethyl-N'-nitroisothiourea (1.0 g), triethylamine (0.68 g) and DMF (10 ml) was added 1.2 g of trichloromethanesulfenyl chloride dropwise at 3°-7° C. After stirring at the same temperature for 1 hour, the mixture was poured into 50 ml of 2N hydrochloric acid and the resulting mixture was extracted with toluene (50 ml). The toluene layer was washed with water (50 ml), dried over MgSO4 and concentrated in vacuo. The resulting residue was applied to column chromatography on silica gel. The column was eluted with hexane-AcOEt (8:1). The fractions containing the desired product were concentrated to afford 1.1 g of S,N-dimethyl-N'-nitro-N-trichloromethanesulfenylisothiourea as a pale yellow crystal, m.p. 75°-78° C.

reactant | S,N-dimethyl-N'-nitroisothiourea | 1.0 g | CSC(NC)=N[N+](=O)[O-] | C3H7N3O2S
reactant | triethylamine | 0.68 g | C(C)N(CC)CC | C6H15N
reactant | trichloromethanesulfenyl chloride | 1.2 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | S,N-dimethyl-N'-nitro-N-trichloromethanesulfenylisothiourea | 1.1 g | CSC(N(SC(Cl)(Cl)Cl)C)=N[N+](=O)[O-] | C4H6Cl3N3O2S2
